US05672712
4-Cyanobenzoyl chloride (10 g) was added in portions to a solution of ammonium thiocyanate (4.6 g) in acetone (100 ml) at room temperature, followed by heating under reflux for 10 minutes. The reaction mixture was ice-cooled, and after removal of the insoluble substance by filtration, the filtrate was evaporated under reduced pressure to give 4-cyanobenzoyl isothiocyanate (11.2 g).

reactant | 4-Cyanobenzoyl chloride | 10 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | ammonium thiocyanate | 4.6 g | [S-]C#N.[NH4+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-cyanobenzoyl isothiocyanate | 11.2 g | C(#N)C1=CC=C(C(=O)N=C=S)C=C1 | C9H4N2OS
